US07166597B2
g) 4-[2-(4-Fluorophenyl)-6-trifluoromethylpyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinamine
A mixture of 2-(4-fluorophenyl)-3-(3-(dimethylamino)-2-propenoyl)-6-trifluoromethylpyrazolo[1,5-a]pyridine (100 mg, 0.27 mmol), guanidinium hydrochloride (52 mg, 0.54 mmol), and sodium ethoxide (73 mg, 1.08 mmol) in EtOH (4 mL) was stirred at reflux for 21 h. Additional guanidine was added in portions to the mixture until starting material was consumed as evidenced by TLC. The reaction mixture was cooled to 0° C. and the resulting precipitate was collected by filtration washed with cold EtOH and dried under vacuum to afford the title compound as a tan solid, 93 mg (92%). 1H NMR (acetone-d6) δ 9.19 (s, 1H), 8.73 (d, 1H, J=9.4 Hz), 8.13 (d, 1H, J=5.2 Hz), 7.78 (m, 2H), 7.63 (d, 1H, J=9.5 Hz), 7.34 (m, 2H), 6.41 (d, 1H, J=5.2 Hz), 6.17 (s, 1H). MS (+ve ion electrospray) 374 (100), (MH+).

reactant | 2-(4-fluorophenyl)-3-(3-(dimethylamino)-2-propenoyl)-6-trifluoromethylpyrazolo[1,5-a]pyridine | 0.27 mmol, 100 mg | FC1=CC=C(C=C1)C1=NN2C(C=CC(=C2)C(F)(F)F)=C1C(C=CN(C)C)=O | C19H15F4N3O
reactant | guanidinium hydrochloride | 0.54 mmol, 52 mg | Cl.NC(=[NH2+])N
reactant | sodium ethoxide | 1.08 mmol, 73 mg | [O-]CC.[Na+]
reactant | guanidine | NC(=N)N | CH5N3
solvent | EtOH | 4 mL | CCO | C2H6O
product | 4-[2-(4-Fluorophenyl)-6-trifluoromethylpyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinamine | FC1=CC=C(C=C1)C1=NN2C(C=CC(=C2)C(F)(F)F)=C1C1=NC(=NC=C1)N | C18H11F4N5
